US08470847B2
1.6: 2-Amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide
0.394 g (9.95 mmol) of sodium hydride at 60% in mineral oil is added, in small amounts, to a solution, cooled to 0-5° C., of 0.483 g (4.93 mmol) of N-methylcyanoacetamide in 7 ml of anhydrous dimethylformamide. Stirring is continued at this temperature for ten minutes and then a solution of 1.0 g (4.93 mmol) of 2-(aminoethyl)-6-chloronicotinic acid fluoride in 5 ml of dimethylformamide is added. The medium is stirred overnight at ambient temperature and then 0.197 g (4.93 mmol) of sodium hydride at 60% is added in small amounts. Stirring is continued at this temperature for 10 minutes and then 0.56 ml (9.78 mmol) of acetic acid is added. 60 ml of water are then added and the solid is spin-filter-dried, rinsed with water, and then dried in an oven. 1.30 g of the expected product are obtained. Melting point: 283-284° C. MH+=281. Yield=94%.

reactant | sodium hydride | 9.95 mmol, 0.394 g | [H-].[Na+]
reactant | N-methylcyanoacetamide | 4.93 mmol, 0.483 g | CNC(CC#N)=O | C4H6N2O
reactant | 2-(aminoethyl)-6-chloronicotinic acid fluoride | 4.93 mmol, 1.0 g | NCCC1=C(C(=O)F)C=CC(=N1)Cl | C8H8ClFN2O
reactant | sodium hydride | 4.93 mmol, 0.197 g | [H-].[Na+]
reactant | acetic acid | 9.78 mmol, 0.56 ml | C(C)(=O)O | C2H4O2
reactant | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 60 ml | O | H2O
product | 2-Amino-7-chloro-1-ethyl-N-methyl-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxamide | 1.30 g, Yield=94% | NC=1N(C2=NC(=CC=C2C(C1C(=O)NC)=O)Cl)CC | C12H13ClN4O2
